US04599205
(b) 3-(N-benzyl-benzyloxycarbonylamino)-1-hexadecyloxy-propan-2-ol
21.4 g of 3-benzylamino-1-hexadecyloxy-propan-2-ol are dissolved in 100 cc. of anhydrous chloroform. At first 5.4 g of triethylamine and then a solution of 9 g of chloroformic acid benzyl ester in 50 cc. of chloroform is added dropwise with cooling and the mixture is stirred for 3 hours. The chloroform solution is washed with 5% hydrocholoric acid and water, dried over sodium sulfate, evaporated and the residue is purified by column chromatography (silicic acid gel//chloroform).

reactant | 3-benzylamino-1-hexadecyloxy-propan-2-ol | 21.4 g | C(C1=CC=CC=C1)NCC(COCCCCCCCCCCCCCCCC)O | C26H47NO2
reactant | triethylamine | 5.4 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid benzyl ester | 9 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(N-benzyl-benzyloxycarbonylamino)-1-hexadecyloxy-propan-2-ol | C(C1=CC=CC=C1)N(CC(COCCCCCCCCCCCCCCCC)O)C(=O)OCC1=CC=CC=C1 | C34H53NO4
